US07335771B2
2,5-Bis{(4-chlorophenyl)amino}terephthalic acid (3.35 gm; 8 mmol) and polyphosphoric acid (30 gm) were heated at 150° C. for 3 hours under a nitrogen atmosphere. The mixture was allowed to cool and then poured into iced water (200 ml) when a magenta solid precipitated out. This was filtered off, washed with water and methanol, then dried under vacuum over phosphorous pentoxide to give 3.1 gm (100%) of 2,9-dichloroquinacridone.

reactant | 2,5-Bis{(4-chlorophenyl)amino}terephthalic acid | 8 mmol, 3.35 gm | ClC1=CC=C(C=C1)NC1=C(C(=O)O)C=C(C(=C1)C(=O)O)NC1=CC=C(C=C1)Cl | C20H14Cl2N2O4
solvent | water | 200 ml | O | H2O
product | 2,9-dichloroquinacridone | 3.1 gm, 100% | C1=CC2=C(C=C1Cl)C(=O)C3=CC4=C(C=C3N2)C(=O)C5=C(N4)C=CC(=C5)Cl | C20H10Cl2N2O2
